US08609653B2
To solution of ethyl 4-amino-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (6 g, 14.8 mmol) in 1,4-dioxane (16 mL) at 0° C. was added dropwise a cold solution of sulfuric acid (16 mL, 300 mmol) in water (24 mL) followed by dropwise addition of a solution of sodium nitrite (4.2 g, 60.5 mmol) in water (12 mL) in 10 min. After stirring for 1 h at 0° C. and 3 h at RT for 3 h the mixture was cooled to 0° C. and more sodium nitrite (1.3 g) in water (3 mL) was added. After 2 h at RT cold water was added and the mixture was filtered washing with water. The solid was dissolved in MeOH and solid NaHCO3 was added. The mixture was stirred for 10 min then filtered and concentrated. The residue was dissolved in EtOAc and washed with saturated NaHCO3/water and the organic phase was dried (Na2SO4), concentrated and dried in vacuo to provide ethyl 1-(3,4-difluorobenzyl)-4-hydroxy-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (5.02 g, 13.8 mmol, 93% yield) as a brown solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.48 (t, J=7 Hz, 3 H), 2.86 (s, 3 H) 4.49 (q, J=7 Hz, 2 H), 5.40 (br s, 2 H), 6.66 (d, J=3.51 Hz, 1 H), 6.91-7.15 (m, 4 H), 12.82 (br s, 1 H); LCMS (m/z) ES+=347 (M+1).

reactant | ethyl 4-amino-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 14.8 mmol, 6 g | NC1=C2C(=NC(=C1C(=O)OCC)C)N(C=C2)CC2=CC(=C(C=C2)F)F | C18H17F2N3O2
reactant | sulfuric acid | 300 mmol, 16 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 60.5 mmol, 4.2 g | N(=O)[O-].[Na+]
reactant | sodium nitrite | 1.3 g | N(=O)[O-].[Na+]
solvent | 1,4-dioxane | 16 mL | O1CCOCC1 | C4H8O2
solvent | water | 24 mL | O | H2O
solvent | water | 12 mL | O | H2O
solvent | water | 3 mL | O | H2O
product | ethyl 1-(3,4-difluorobenzyl)-4-hydroxy-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 13.8 mmol, 5.02 g, 93% yield | FC=1C=C(CN2C=CC=3C2=NC(=C(C3O)C(=O)OCC)C)C=CC1F | C18H16F2N2O3
